US07531547B2
5-(2-Isopropyl-4-methoxy-5-trimethylsilanylethynyl-phenoxy)-pyrimidine-2,4-diamine (0.65 g, 1.75 mmol) was added to 40 mL methylene chloride at ice bath temperature and under nitrogen. Boron tribromide (7 mL) was added and the reaction mixture was stirred at ice bath temperature for 1.5 hours, and then for 20 hours at room temperature. The reaction mixture was added to saturated aqueous NaHCO3, and the resulting mixture was extracted with chloroform. The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was chromatographed on 50 g of flash silica (2%-6% MeOH/CH2Cl2) to give 103 mg of 4-(2,4-diamino-pyrimidin-5-yloxy)-2-ethynyl-5-isopropyl-phenol, MS (M+H)=285.

reactant | 5-(2-Isopropyl-4-methoxy-5-trimethylsilanylethynyl-phenoxy)-pyrimidine-2,4-diamine | 1.75 mmol, 0.65 g | C(C)(C)C1=C(OC=2C(=NC(=NC2)N)N)C=C(C(=C1)OC)C#C[Si](C)(C)C | C19H26N4O2Si
reactant | Boron tribromide | 7 mL | B(Br)(Br)Br | BBr3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
product | 4-(2,4-diamino-pyrimidin-5-yloxy)-2-ethynyl-5-isopropyl-phenol | 103 mg | NC1=NC=C(C(=N1)N)OC1=CC(=C(C=C1C(C)C)O)C#C | C15H16N4O2
